US09302977B2
Methyl 3-morpholin-4-ylpropyl (2E)but-2-ene-1,4-dioate
Monomethyl fumarate (MMF) was reacted with 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDAC) (1.2 eq) in dichloromethane (DCM) at ca. 0° C. 3-Morpholin-4-yl-propan-1-ol (1 eq) and 4-N,N-dimethylaminopyridine (DMAP) (catalytic amount) were added to the activated carboxylic acid. After the completion of the reaction, followed by the work-up of the reaction mixture, the title compound was isolated as a viscous-oil.

reactant | Monomethyl fumarate | C(\C=C\C(=O)[O-])(=O)OC
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.2 eq | Cl.C(C)N=C=NCCCN(C)C
reactant | 3-Morpholin-4-yl-propan-1-ol | 1 eq | N1(CCOCC1)CCCO | C7H15NO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | Methyl 3-morpholin-4-ylpropyl (2E)but-2-ene-1,4-dioate | C(\C=C\C(=O)OCCCN1CCOCC1)(=O)OC | C12H19NO5
